US09029066B2
15.3 g (0.1 mol) 4-amino-2-hydroxy-benzoic acid was dissolved in 100 ml acetone. 17.06 g (0.11 mol) 2-isocyanatoethyl methacrylate was dissolved in 15 ml acetone and added dropwise to the 4-amino-2-hydroxy-benzoic acid solution. The temperature rose to 32° C. during the addition. The reaction was allowed to continue for two hours at room temperature. The solvent was evaporated under reduced pressure. The residue was dissolved in a mixture 200 ml acetone and 50 ml methanol. The solution was added to 1 l water while stirring. 2-hydroxy-4-{3-[2-(2-methyl-acryloyloxy)-ethyl]-ureido}-benzoic acid precipitated from the medium and was isolated by filtration. 2-hydroxy-4-{3-[2-(2-methyl-acryloyloxy)-ethyl]-ureido}-benzoic acid was washed twice with 150 ml water and dried. 28.5 g (92.5%) of 2-hydroxy-4-{3-[2-(2-methyl-acryloyloxy)-ethyl]-ureido}-benzoic acid was isolated (melting point: 208-210° C.)

reactant | 4-amino-2-hydroxy-benzoic acid | 0.1 mol, 15.3 g | NC1=CC(=C(C(=O)O)C=C1)O | C7H7NO3
reactant | 2-isocyanatoethyl methacrylate | 0.11 mol, 17.06 g | C(C(=C)C)(=O)OCCN=C=O | C7H9NO3
solvent | acetone | 100 ml | CC(=O)C | C3H6O
solvent | acetone | 15 ml | CC(=O)C | C3H6O
product | 2-hydroxy-4-{3-[2-(2-methyl-acryloyloxy)-ethyl]-ureido}-benzoic acid | 28.5 g, 92.5% | OC1=C(C(=O)O)C=CC(=C1)NC(=O)NCCOC(C(=C)C)=O | C14H16N2O6
